US07842688B2
d) Methyl 1-methyl-1H-benzimidazole-4-carboxylate
1.39 g of methyl 3H-benzimidazole-4-carboxylate are dissolved under argon in 20 ml of N,N-dimethylformamide. The solution is cooled to 0° C. in an ice bath and admixed in portions with 0.299 g of sodium hydride (60% dispersion). 0.744 ml of methyl iodide is added and the reaction mixture is heated to 45° C. over 17 hours. The reaction mixture is subsequently poured onto 50 ml of saturated aqueous sodium hydrogencarbonate solution and extracted with 2:1 tetrahydrofuran/tert-butyl methyl ether (2×150 ml). The combined organic phases are washed with 50 ml each of saturated aqueous sodium hydrogencarbonate solution and water, dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a beige solid from the residue by means of flash chromatography (SiO2 60F). Rt=1.95.

reactant | methyl 3H-benzimidazole-4-carboxylate | 1.39 g | N1=CNC2=C1C=CC=C2C(=O)OC | C9H8N2O2
reactant | sodium hydride | 0.299 g | [H-].[Na+]
reactant | methyl iodide | 0.744 ml | CI | CH3I
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 1-methyl-1H-benzimidazole-4-carboxylate | CN1C=NC2=C1C=CC=C2C(=O)OC | C10H10N2O2
